US07777047B2
(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid
Ethyl (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate (0.52 g) was dissolved in a mixed solvent of tetrahydrofuran (6 mL)-methanol (6 mL), and the mixture was ice-cooled. Aqueous potassium hydroxide solution (prepared by dissolving potassium hydroxide (0.25 g) in water (5 mL))) was added to this solution, and the mixture was stirred from under ice-cooling to room temperature for 7 hr. The reaction solution was acidified with aqueous citric acid solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained amorphous solid was crystallized from ethyl acetate-hexane to give the title compound (407 mg, yield: 83%) as pale-yellow prism crystals. MS: 436 (MH+). melting point 232-234° C.

reactant | Ethyl (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 0.52 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC)S(=O)(=O)C=1SC=CC1 | C20H21N3O4S3
reactant | potassium hydroxide | 5 mL, 0.25 g | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
product | (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 407 mg, yield: 83% | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)S(=O)(=O)C=1SC=CC1 | C18H17N3O4S3
